* Z:\mnt\design.r\spice\examples\1959.asc
V1 IN 0 5
C1 N004 0 1500p
C2 OUT 0 100µ Rser=50m
L1 N003 OUT 5µ
C3 N001 N003 .68µ
R1 OUT N005 1.21K
R2 N005 0 2.49K
D1 OUT N001 1N914
D2 0 N003 MBRS340
XU1 IN N001 N005 0 N004 N002 MP_01 N003 LT1959
Rload OUT 0 .5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1959.sub
.backanno
.end
